US05294713
WORKING EXAMPLE 59 (S)-4-(4-Amidinobenzoylglycyl)-3-methoxycarbonylmethyl-2-oxopiperazine-1-acetic acid hydrochloride
In 10 ml of methanol was dissolved 480 mg of (S)-4-(N-benzyloxycarbonylglycyl)-3-methoxycarbonylmethyl-2-oxo-piperazin-1-acetic acid t-butyl ester obtained in Working Example 58. To the solution was added 100 mg of 10% palladium-carbon, and the mixture was stirred for one hour at room temperature in a hydrogen streams. The catalyst was filtered off, and the filtrate was concentrated to give an oily product, which was dissolved in 5 ml of dimethylformamide. To the solution were added 200 mg of 4-amidinobenzoic acid hydrochloride, then 200 mg of (1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride. The mixture was stirred for one hour at room temperature. The reaction mixture was diluted with ethyl acetate, washed with a 5% aqueous solution of potassium hydrogensulfate, then a 10% aqueous solution of sodium hydrogencarbonate, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure to leave an oily product. The oily product was dissolved in 5 ml of methylene chloride. To the solution was added 5 ml of trifluoroacetic acid, and the mixture was stirred for one hour at room temperature. The reaction mixture was concentrate to give a crude product, which was made into hydrochloride with 1N HCl, followed by purification by means of a C18 --ODS column to afford 250 mg of the title compound as colorless powder.

reactant | (S)-4-(N-benzyloxycarbonylglycyl)-3-methoxycarbonylmethyl-2-oxo-piperazin-1-acetic acid t-butyl ester | 480 mg | C(C)(C)(C)OC(CN1C([C@@H](N(CC1)C(CNC(=O)OCC1=CC=CC=C1)=O)CC(=O)OC)=O)=O | C23H31N3O8
reactant | hydrogen | [H][H] | H2
reactant | 4-amidinobenzoic acid hydrochloride | 200 mg | Cl.C(N)(=N)C1=CC=C(C(=O)O)C=C1
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloride | Cl | ClH
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | (S)-4-(4-Amidinobenzoylglycyl)-3-methoxycarbonylmethyl-2-oxopiperazine-1-acetic acid hydrochloride | 250 mg | Cl.C(N)(=N)C1=CC=C(C(=O)NCC(=O)N2[C@H](C(N(CC2)CC(=O)O)=O)CC(=O)OC)C=C1 | InChI=1S/C19H23N5O7.ClH/c1-31-16(28)8-13-19(30)23(10-15(26)27)6-7-24(13)14(25)9-22-18(29)12-4-2-11(3-5-12)17(20)21;/h2-5,13H,6-10H2,1H3,(H3,20,21)(H,22,29)(H,26,27);1H/t13-;/m0./s1
